US06046192
(S)-4-[2-(tert-Butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]butyric acid (399 mg) was dissolved in tetrahydrofuran (5 ml), and N,N'-carbonyldiimidazole (204 mg) was added to the solution under ice-cooling with stirring. After reaction for 2 hours, a solution of dimethylamine (1.40 g) in tetrahydrofuran (2 ml) was added to the reaction mixture under ice-cooling with stirring. After reaction for 45 minutes and then at room temperature for 45 minutes, the reaction mixture was concentrated in vacuo. Water was added to the resulting residue and the mixture was extracted with diethyl ether. The extract was washed with 10% aqueous citric acid solution, water, a saturated aqueous sodium bicarbonate solution and water successively, and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to give (S)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylbutyramide (396 mg) having a melting point of 97-101° C.

reactant | (S)-4-[2-(tert-Butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]butyric acid | 399 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)O | C19H27NO5
reactant | dimethylamine | 1.40 g | CNC | C2H7N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (S)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylbutyramide | 396 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)N(C)C | C21H32N2O4
